US07759382B2
A solution of 10 g of (3,5-difluorophenyl)acetic acid in 100 mL of tetrahydrofuran was treated with 9.9 g of carbonyldiimidazole. The mixture was stirred at 25° C. for 3 hours then a vigorous stream of anhydrous ammonia was bubbled through the solution for 1 hour. The mixture was stirred for 2 days and then the solvent was evaporated at reduced pressure. The residue was suspended in 100 mL of distilled water. The mixture was filtered and the filtrant washed with distilled water twice. After drying in a stream of air, the (3,5-difluorophenyl)acetamide was obtained as 8.4 g of an ivory solid. 1H-NMR (DMSO-d6): δ 7.51 (broad s, 1H), 7.15-6.85 (m, 3H), 3.40 (s, 2H). MS (EI): m/z 171. EA Calc'd for C—8H7NO: C, 56.13; H, 4.13; N, 8.18. Found: C, 56.16; H, 4.05; N, 8.07.

reactant | (3,5-difluorophenyl)acetic acid | 10 g | FC=1C=C(C=C(C1)F)CC(=O)O | C8H6F2O2
reactant | carbonyldiimidazole | 9.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (3,5-difluorophenyl)acetamide | FC=1C=C(C=C(C1)F)CC(=O)N | C8H7F2NO
